Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
symptomatic fibroid uterus
 
Major Surgical or Invasive Procedure:
Laparoscopic converted to open supracervical hysterectomy
 
History of Present Illness:
___ old G1 P1 with a large symptomatic fibroid uterus. Heavy 
vaginal bleeding has in the past led to anemia and she has been 
on IV iron. She had a hysteroscopic myomtectomy at ___ 
___ in ___, which showed no endometrial cancer 
or precancerous changes. By abdominal exam, uterus was 
approximated to be 16cm. Utlrasound confirmed a 16cm fibroid as 
well as a 5cm fibroid; endometrial thickness was 13mm. 

She also complains of mixed urinary incontinence (stress>urge) 
and has been evaluated by urogynecology for this. She feels the 
fibroids are the biggest contributor of her incontinence and 
desires definitive management of the fibroids before undergoing 
any surgeries for incontinence.

 
Past Medical History:
OB/GYN HISTORY:  Menarche at 14.  She cycles monthly and bleeds 
for approximately nine days.  She has had one pregnancy, which 
she has carried to term in ___.  She denies any history of 
sexually transmitted infections with the exception of the human 
papilloma virus.  She has had abnormal Pap smears in the past.  
Her last Pap was ___ and she notes that that Pap was 
normal.  She has never had a mammogram, colonoscopy, or bone 
density.

MEDICAL HISTORY:  As above, otherwise noncontributory.

ALLERGIES:  No known drug allergies.

OPERATIVE HISTORY:  She has had her tonsils removed and also had 
hysteroscopic myomectomy.

 
Social History:
___
Family History:
Father with diabetes and heart issues.  Mother with 
hypertension.  She has six brothers and two sisters, all alive 
and well.

 
Physical Exam:
Discharge physical exam

General- well-appearing ___ female in no acute 
distress
Cardiac- Normal rate and rhythm. No S3, N4. 
Lungs- Clear to auscultation in all lung fields
Abdomen- Soft, nondistended and appropriately tender 
___. 
Two incision sites: 1- 1cm supraumbilical vertical midline 
incision 2- 7cm horizontal Pfannensteil incision. Both incision 
sites with steri-strips intact, no erythema or exudates
GU- Pad with minimal vaginal bleeding
Extremities- No cyanosis, clubbing or edema. No calf tenderness

 
Brief Hospital Course:
Ms. ___ was admitted following scheduled laparoscopic 
converted to open supracervical hysterectomy; see operative 
report for details. She had an uncomplicated recovery and was 
discharged home in stable condition on postoperative day #2. 
 
Medications on Admission:
imipramine
 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain: take with food.
Disp:*60 Tablet(s)* Refills:*0*
2. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for Pain.
Disp:*40 Tablet(s)* Refills:*0*
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
4. Imipramine (per home regimen)
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
symptomatic fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your doctor for:
* fever > 100.4
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Do not combine narcotic and sedative medications or alcohol
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs
* No strenuous activity, nothing in the vagina (no tampons, no 
douching, no sex), no heavy lifting of objects >10lbs for 6 
weeks. 
* You may eat a regular diet.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision.  No bath tubs for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___